US07045545B1
Nitrogen was bubbled through a mixture of 1.0 gm (4.65 mMol) 5-fluoro-7-bromobenzofuran, 0.61 mL (6.98 mMol) 3-buten-2-ol, 0.057 gm (0.186 mMol) tri(o-tolyl)phosphine, and 0.47 gm (5.58 mmol) sodium bicarbonate in 35 mL N-methylpyrrolidinone for 10 minutes. To the mixture were then added 0.021 gm (0.093 mMol) palladium(II) acetate and the reaction mixture was heated to 140° C. for 3 hours. The reaction mixture was cooled to room temperature and diluted with 500 mL ethyl acetate. The organic phase was washed sequentially with three 500 mL portions of water and 500 mL saturated aqueous sodium chloride, dried over magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel chromatography, eluting with a gradient of hexane containing from 0–20% ethyl acetate. Fractions containing product were combined and concentrated under reduced pressure to provide 0.73 gm (76%) 4-(5-fluorobenzofur-7-yl)-2-butanone as a yellow oil.

reactant | 5-fluoro-7-bromobenzofuran | 4.65 mMol, 1.0 gm | FC=1C=C(C2=C(C=CO2)C1)Br | C8H4BrFO
reactant | 3-buten-2-ol | 6.98 mMol, 0.61 mL | CC(C=C)O | C4H8O
reactant | sodium bicarbonate | 5.58 mmol, 0.47 gm | C([O-])(O)=O.[Na+]
solvent | N-methylpyrrolidinone | 35 mL | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium(II) acetate | 0.093 mMol, 0.021 gm | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | tri(o-tolyl)phosphine | 0.186 mMol, 0.057 gm | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
product | 4-(5-fluorobenzofur-7-yl)-2-butanone | 0.73 gm, 76% | FC=1C=C(C2=C(C=CO2)C1)CCC(C)=O | C12H11FO2
